US06420426B1
solution of 3-(4-bromo-2-fluoro-benzyl)-7-methoxy benzo[e][1,3]oxazine-2,4-dione (1.67 g, 4.4 mmol) in ethanol (80 ml, 0.06 M) was cooled to 0° C. and treated with aq KOH (0.673 g, 11.9 mmol, 1.2 M). After 3 h, the reaction was acidified to pH 1-2 with 2 N HCl and extracted with ethyl acetate (3×). The combined organic extracts were washed with saturated aq NaCl, dried over Na2SO4, filtered and concentrated. The crude solid was recrystallized from heptane and ethyl acetate to give N-(4-bromo-2-fluoro-benzyl)-2-hydroxy-4-methoxy-benzamide as a white crystalline solid (1.10 g, 71%): mp 128-129.5° C.; Rf 0.28 (25% ethyl acetate in heptane); 1H NMR (DMSO-d6 300 MHz) δ 12.70 (br s, 1H), 9.14 (br t, J=5.2 Hz, 1H), 7.80 (d; J=8.5 Hz, 1H), 7.50 (d, J=8.5 Hz, 1H), 7.40-7.25 (m, 2H), 6.50-6.48 (m, 2H), 4.45 (d, J=5.2 Hz, 2H), 3.75 (s, 3H). ESI-LC/MS m/z calcd for C15H13BrFNO2: 353.0; found 352.0 (M−1)−. Anal. calcd for C15H13BrFNO2: C, 50.87; H, 3.70; N, 3.95. Found C, 50.70; H, 3.73; N, 3.91.

reactant | 3-(4-bromo-2-fluoro-benzyl)-7-methoxy benzo[e][1,3]oxazine-2,4-dione | 4.4 mmol, 1.67 g | BrC1=CC(=C(CN2C(OC3=C(C2=O)C=CC(=C3)OC)=O)C=C1)F | C16H11BrFNO4
reactant | KOH | 11.9 mmol, 1.2 M, 0.673 g | [OH-].[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | ethanol | 0.06 M, 80 ml | C(C)O | C2H6O
product | N-(4-bromo-2-fluoro-benzyl)-2-hydroxy-4-methoxy-benzamide | 1.10 g, 71% | BrC1=CC(=C(CNC(C2=C(C=C(C=C2)OC)O)=O)C=C1)F | C15H13BrFNO3
